US06521630B1
3-Amino-1-propanol (10.0 mL, 0.131 mol) and methyl trifluoroacetate (65 mL, 0.646 mol) in methanol (200 mL) were refluxed for 1.5 h, cooled and concentrated to give 2,2,2-trifluoro-N-(3-hydroxypropyl)-acetamide (22.87 g, quantitative) as a light yellow oil which was used without purification. NMR CDCl3 δ 7.45 (br s, 1H), 3.77 (t, J=5.5 Hz, 2H), 3.53-3.42 (m, 2H), 2.45 (s, 1H), 1.83-1.75 (m, 2H).

reactant | 3-Amino-1-propanol | 0.131 mol, 10.0 mL | NCCCO | C3H9NO
reactant | methyl trifluoroacetate | 0.646 mol, 65 mL | FC(C(=O)OC)(F)F | C3H3F3O2
solvent | methanol | 200 mL | CO | CH4O
product | 2,2,2-trifluoro-N-(3-hydroxypropyl)-acetamide | 22.87 g | FC(C(=O)NCCCO)(F)F | C5H8F3NO2
